US04536505
A suspension of 26.6 g of 3-(4-carboxybutyl)-N-(3-pyridyl)indole and 10.5 g of sulfamide in 90 ml of sulfolane is treated with 11.42 g of thionyl chloride at room temperature under nitrogen. The mixture is heated at 120° until gas evolution ceases and solid p-toluenesulfonic acid monohydrate (1.71 g) is added carefully. After heating an additional 3 hours at 120°, the reaction mixture is cooled, poured onto 200 g of ice and acidified with 130 ml of 1N hydrochloric acid. The aqueous phase is sequentially extracted with ethyl acetate (3×100 ml), made basic with solid sodium bicarbonate and reextracted with ethyl acetate (3×125 ml). The organic extracts are washed with 0.5N sodium hydroxide (5×50 ml), dried over sodium sulfate and evaporated to yield and oil which is chromatographed on 60 g of silica gel to yield 3-(4-cyanobutyl)-N-(3-pyridyl)indole.

reactant | 3-(4-carboxybutyl)-N-(3-pyridyl)indole | 26.6 g | C(=O)(O)CCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H18N2O2
reactant | sulfamide | 10.5 g | S(=O)(=O)(N)N | H4N2O2S
reactant | thionyl chloride | 11.42 g | S(=O)(Cl)Cl | Cl2OS
reactant | p-toluenesulfonic acid monohydrate | 1.71 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrochloric acid | 1N, 130 ml | Cl | ClH
solvent | sulfolane | 90 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 3-(4-cyanobutyl)-N-(3-pyridyl)indole | C(#N)CCCCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H17N3
